US08426428B2
Step 2: Synthesis of 3-(3-fluoro-4-(pyridin-2-ylmethoxy)phenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine
1H-pyrazolo[3,4-d]pyrimidin-4-amine (1 equivalent), N-iodosuccinimide (1.25 equivalents) and AIBN (0.1 equivalents) are heated in acetonitrile for 10 h. The reaction is filtered and the filtered material (1 equivalent) is placed in DMF. Pd(dppf)Cl2 (0.6 equivalents), KI (0.1 equivalents), K3PO4 (3 equivalents) and 2-((2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy)methyl)pyridine (1 equivalent) are added and the mixture is heated at 80° C. overnight. The reaction is partitioned between EtOAc and water, the organic layer is separated, washed with water, brine, dried over Na2SO4 and filtered. The filtrate is concentrated under reduced pressure and purified by column chromatography.

reactant | 1H-pyrazolo[3,4-d]pyrimidin-4-amine | 1 equivalent | N1N=CC=2C1=NC=NC2N | C5H5N5
reactant | N-iodosuccinimide | 1.25 equivalents | IN1C(CCC1=O)=O | C4H4INO2
reactant | AIBN | 0.1 equivalents | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
reactant | K3PO4 | 3 equivalents | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | 2-((2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy)methyl)pyridine | 1 equivalent | FC1=C(OCC2=NC=CC=C2)C=CC(=C1)B1OC(C(O1)(C)C)(C)C | C18H21BFNO3
solvent | acetonitrile | C(C)#N | C2H3N
solvent | DMF | CN(C)C=O | C3H7NO
catalyst | Pd(dppf)Cl2 | 0.6 equivalents | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 3-(3-fluoro-4-(pyridin-2-ylmethoxy)phenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine | FC=1C=C(C=CC1OCC1=NC=CC=C1)C1=NNC2=NC=NC(=C21)N | C17H13FN6O
